2174-04-03 08:53:00 Physician Attending Progress Note
Chief Complaint: Altered mental status likely due to hepatic
   encephalopathy
   HPI: Agitated early this morning, got 7mg of Versed before being
   switched to propofol.
   LVP with 2L out, 246 PMNs, no organisms.  Got SPA x2.  RUQ ultrasound
   unable to visualize right portal vein, but some flow in portal
   vein.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2174-4-2**] 10:20 AM
 ENDOSCOPY - At [**2174-4-2**] 04:00 PM
 PARACENTESIS - At [**2174-4-2**] 06:47 PM
   Allergies:
   Gluten
   celiac sprue;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-4-2**] 08:00 PM, peridex
   Other medications: CFTX, SPA, propofol, lactulose
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-4-3**] 08:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 80 (74 - 99) bpm
   BP: 117/67(78) {82/55(63) - 138/74(84)} mmHg
   RR: 11 (10 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  1,727 mL
                                                                    944 mL
   PO:
           TF:
   IVF:
                                                                  1,092 mL
                                                                    594 mL
   Blood products:
                                                                    425 mL
                                                                     50 mL
   Total out:
                                                                  2,200 mL
                                                                    225 mL
   Urine:
                                                                    200 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                   -473 mL
                                                                    719 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 669 (553 - 733) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.49/25/151/17/-1
   Ve: 9.4 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Neurologic: Not responsive to voice, touch.
   MMM.  RRR, S1S2.  Lungs are clear to auscultation and percussion.
   Abdomen is soft (softer than prior), +BS.  Extremities with 1+ edema.
   Labs / Radiology
   9.1 g/dL
   128 K/uL
   111 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.6 mEq/L
   35 mg/dL
   103 mEq/L
   130 mEq/L
   28.4 %
   6.7 K/uL
        [image002.jpg] ABG: 7.49/25/151
                             [**2174-4-2**]  03:30 PM
                             [**2174-4-3**]  12:26 AM
                             [**2174-4-3**]  03:59 AM
   WBC
   6.7
   Hct
   28.0
   27
   28.4
   Plt
   128
   Cr
   1.0
   TCO2
   20
   Glucose
   111
   Other labs: PT / PTT / INR:19.7/35.0/1.8, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):
   -intubated for airway protection, and ready now except for agitation.
   -Keep off sedation. If agitated use low-dose haldol.
   -evaluate for extubation If wakes up consider extubtaion.
 TRAUMA, S/P
false urethral tract.
   -Continue CFTX and discuss with urology
 HYPOTENSION (NOT SHOCK):
   -Resolved.
   -Run even to negative.
   -Restart aldactone.
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM):
   -continue lactulose
   ICU Care
   Nutrition: Feed if not extubating
   Glycemic Control:
   Lines:
   18 Gauge - [**2174-4-2**] 03:00 PM
   20 Gauge - [**2174-4-2**] 10:30 PM
   Prophylaxis:
   DVT: Boots, start heparin
   Stress ulcer: PPI
   VAP: Peridex
   Comments:
   Communication:  Comments:
   Code status: Full Code
 discussed with family yesterday.  Will need to
   re-address.
   Disposition : ICU
   Total time spent: 35 minutes

2174-04-04 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2174-4-3**] 09:00 AM
 INVASIVE VENTILATION - STOP [**2174-4-3**] 02:40 PM
   -extubated in the morning once diazepam wore off
   -continued treatment for SBP with ceftriaxone, albumin (holding
   diuresis given SBP)
   -per urology, leave foley in for 2 weeks, f/u with urology as
   outpatient
   -put in for social work consult
   -Sister was reluctant to have hospice consult
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Gluten
   celiac sprue;
   Last dose of Antibiotics:
   Ceftriaxone - [**2174-4-3**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-4-3**] 07:57 PM
   Heparin Sodium (Prophylaxis) - [**2174-4-3**] 07:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-4-4**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (97
   HR: 70 (69 - 99) bpm
   BP: 99/60(70) {92/45(57) - 119/71(81)} mmHg
   RR: 11 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,525 mL
                                                                    241 mL
   PO:
             TF:
                                                                     37 mL
                                                                     73 mL
   IVF:
                                                                    807 mL
                                                                    169 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,030 mL
                                                                    985 mL
   Urine:
                                                                    730 mL
                                                                    165 mL
   NG:
   120 mL
   Stool:
                                                                  1,300 mL
                                                                    700 mL
   Drains:
   Balance:
                                                                   -505 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 732 (669 - 732) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 8.7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, ascites
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   106 K/uL
   7.6 g/dL
   99 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.2 mEq/L
   32 mg/dL
   109 mEq/L
   135 mEq/L
   23.7 %
   2.1 K/uL
        [image002.jpg]
                             [**2174-4-2**]  03:30 PM
                             [**2174-4-3**]  12:26 AM
                             [**2174-4-3**]  03:59 AM
                             [**2174-4-4**]  03:18 AM
                             [**2174-4-4**]  04:49 AM
   WBC
   6.7
   2.3
   2.1
   Hct
   28.0
   27
   28.4
   23.1
   23.7
   Plt
   128
   105
   106
   Cr
   1.0
   0.9
   TCO2
   20
   Glucose
   111
   99
   Other labs: PT / PTT / INR:20.6/39.9/1.9, ALT / AST:16/31, Alk Phos / T
   Bili:182/3.0, Albumin:3.0 g/dL, LDH:185 IU/L, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.2 mg/dL
   Peritoneal fl [**4-2**]: 4+ PMNs
   Blood cx [**4-2**]: NGTD
   Stool cx [**4-3**]: Negative C. diff
   RUQ U/S [**4-2**]:
   IMPRESSION:
   1. Moderate ascites, spot marked for bedside paracentesis.
   2. Doppler examination difficult given the abdominal ascites.
   Nonocclusive
   thrombus in the main portal vein, with slow flow. Hepatopetal flow in
   the
   left portal vein. Right portal vein not seen. Recommend repeat Doppler
   examination following paracentesis.
   3. Cirrhotic liver, with limited evaluation for focal lesions.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 TRAUMA, S/P
 HYPOTENSION (NOT SHOCK)
 ANEMIA, CHRONIC
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
   75 yo M with metastatic treatment refractory HCC Dx [**2168**] course c/b
   ascites with portal vein thrombosis who presents with altered mental
   status and concern for UGIB, intubated for airway protection, found to
   have SBP
   .
   .
   # Altered mental status- hepatic encephalopathy leading diagnosis given
   deterioration in liver function and portal vein thrombosis with poor
   clearance of toxins. Also diagnosed with SBP as precipitating event
   given his immunocompromised state [**1-17**] cancer and chemotherapy. UGIB
   also would lead to altered mental status given hypoperfusion of brain.
   Intervally improved with SBP treatment and aggressive lactulose
   - Cont CTX for SBP
   - lactulose TID to titrate to [**2-17**] bowel movements
   - d/w liver adding rifaximin if no improvement on lactulose
   - EGD negative for bleed
   - unlikely sorafenib given he has been off this medication for the past
   month
   - IV PPI [**Hospital1 **]
   - 2 PIVs 18g in place
   - CT rules out bleed
   - f/u micro
   .
   # SBP: Cont CTX and complete albumin course
   .
   #. Respiratory failure - intubated in ED for GCS 8 for airway
   protection. Arrived in MICU on pressure support.  After EGD and
   sedation weaned was successfully extubated.  Stable airway currently.
   - Cont to watch closely
   .
   # Pancytopenia: Most likely related to recent chemotherapy.  No signs
   of bleeding to explain anemia.  Not on other medications known to cause
   this.  Most likely in nadir phase
   - Trend CBC
   - Check ANCs
   - Transfuse for Hct<21, Plt <10
   .
   # Metastatic HCC- Dr. [**Last Name (STitle) 123**] was made aware in ER. On palliative chemo,
   s/p chemoembolization [**7-23**], did not tolerate sorafenib. Refractory
   disease, recently initiated on 5FU treatment. MELD 17. Has required
   paracenteses and blood transfusions as outpatient for comfort. Tbili:
   3.4, up from 1.2 in [**Month (only) 1563**].
   - on palliative chemotherapy, last dose 4/9
   - Dr. [**Last Name (STitle) 123**] aware
   .
   #. Hypotension: Stable. likely volume depletion and low baseline given
   liver disease, improved overnight with IVF
   - fluid boluses to keep MAP>60
   - trend Hct
   - follow urine output
   .
   #. Hyponatremia: Resolved.  on spironolactone 25mg daily at home.
   Likely secondary to liver disease. Last Na has been 129, currently
   lower at 126.
   - hold diuretics for now another day
   - trend Na
   .
   #. FEN
 Advance diet slowly as cont to clear
   .
   #. Access - 2 - 18g PIV
   .
   #. PPx -
   -DVT ppx with pneumoboots
   -IV PPI
   -Bowel regimen with lactulose
   .
   #. Code - FULL CODE confirmed
   .
   #. Dispo - ICU -> call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2174-4-2**] 03:00 PM
   20 Gauge - [**2174-4-2**] 10:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status:
   Disposition:ICU